### PR TITLE
[Merged by Bors] - feat: `Rat.padicValuation` is surjective

### PR DESCRIPTION
**Pull request by smmercuri**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicNumbers.lean [hunk 1]
```diff
@@ -141,6 +141,19 @@ lemma Rat.padicValuation_le_one_iff {p : ℕ} [Fact p.Prime] {x : ℚ} :
...
+theorem Rat.surjective_padicValuation (p : ℕ) [hp : Fact (p.Prime)] :
+    Function.Surjective (Rat.padicValuation p) := by
+  intro x
+  induction x with
+  | zero => simp
+  | coe x =>
+    induction x with | ofAdd x
+    rcases le_or_gt 0 x with (hx | hx) <;> simp only [Rat.padicValuation, WithZero.exp]
+    · use (p ^ x.natAbs)⁻¹
+      simp [hp.out.ne_zero, padicValRat.pow, hx]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Padics/PadicNumbers.lean]: Easier to clean up the goal before splitting into cases:
```suggestion
    simp_rw [Rat.padicValuation, WithZero.exp, Valuation.coe_mk, MonoidWithZeroHom.coe_mk,
      ZeroHom.coe_mk]
    rcases le_or_gt 0 x with (hx | hx)
    · use (p ^ x.natAbs)⁻¹
      simp [hp.out.ne_zero, hx]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
